US05502054
In a flask were placed 5.0 g (0.032 mole) of 4,4-dimethyl-4-silapentanoic acid chloride and 2.89 g (0.032 mole) of copper(I) cyanide. This mixture was heated at approximately 150°-200° C. for a period of 50 minutes after which it was cooled to ambient temperature. Methylene chloride was added to the reaction mixture which was then filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving 1.5 g of 4,4-dimethyl-4-silapentanoyl cyanide as a residue.

reactant | 4,4-dimethyl-4-silapentanoic acid chloride | 0.032 mole, 5.0 g | C[Si](CCC(=O)Cl)(C)C | C6H13ClOSi
reactant | copper(I) cyanide | 0.032 mole, 2.89 g | [Cu]C#N
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-dimethyl-4-silapentanoyl cyanide | 1.5 g | C[Si](CCC(=O)C#N)(C)C | C7H13NOSi
